US05317016
A solution of (2S,4R)-1-p-nitrobenzyloxycarbonyl-2-phthalimidomethyl-4-methanesulfonyloxypyrrolidine (10 g: 19.88 mmole) and potassium thioacetate (4.54 g: 2 eq.) in dimethylformamide (60 ml) is stirred at 60° C. for 3 hours. The reaction mixture is poured into ice water (200 ml) and filtered. The precipitate is dissolved in ethyl acetate, dried over magnesium sulfate, and concentrated in vacuo. The residue is purified by silica gel column chromatography (toluene: ethyl acetate) to give (2S,4S)-1-p-nitrobenzyloxycarbonyl-2-phthalimidomethyl-4-acetylthiopyrrolidine (8.7 g). Yield: 90%. NMR δ(CDCl3) ppm: 1.65 to 1.97(m, 1H), 2.47 to 2.67(m, 1H), 3.24 to 3.34(q, 1H), 3.73 to 4.24(m, 4H), 4.30 to 4.54(m, 1H), 5.02(dd, J=14 Hz, J=7 Hz, 1H), 5.20(d, J=14 Hz, 1H), 7.42 (d, J=9 Hz, 1H), 7.45(d, J=9 Hz, 1H), 7.60 to 8.86(m, 4H), 8.17(d, J=9 Hz, 2H). IR ν (CHCl3) cm-1 : 1773, 1714, 1605.

reactant | (2S,4R)-1-p-nitrobenzyloxycarbonyl-2-phthalimidomethyl-4-methanesulfonyloxypyrrolidine | 19.88 mmole, 10 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)OS(=O)(=O)C)CN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C22H21N3O9S
reactant | potassium thioacetate | 4.54 g, 2 eq. | C(C)(=S)[O-].[K+]
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | (2S,4S)-1-p-nitrobenzyloxycarbonyl-2-phthalimidomethyl-4-acetylthiopyrrolidine | 8.7 g, Yield: 90% | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)CN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C23H21N3O7S
